US08957074B2
A solution of 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino) nicotinic acid (5 eq of Lithium Chloride) (0.088 g, 0.146 mmol), HBTU (0.086 mg, 0.226 mmol, 1.6 eq) and triethylamine (0.100 mL, 0.717 mmol, 4.9 eq) in DMF (3 mL) was stirred at 23° C. for 5 minutes, then (3aR,8aS)-Octahydro-pyrrolo[2,3-c]azepine-1-carboxylic acid benzyl ester (0.040 mg, 0.146 mmol, 1.0 eq) was added and the reaction stirred at 23° C. for 1.5 hr. The reaction mixture was diluted with Ethyl Acetate, the mixture washed with 0.5M HCl (aq), then water (3×), brine, the organic layer dried (Na2SO4), filtered, and the filtrate concentrated. The crude was purified using chromatography (Methanol/CH2Cl2) giving a white solid. To the resulting solid (42 mg) was added 10% Pd/C (15 mg) followed by methanol (5 mL). The suspension was blanketed with H2 balloon with stirring for 6 hr. The contents of the reaction were filtered through Celite and the filtrate concentrated to a white solid that was burified by trituration from Ethyl Acetate/Heptane followed by chromatography (methanol/CH2Cl2) mixtures gave 7-cyclopentyl-2-[5-((3aR,8aS)-octahydro-pyrrolo[2,3-c]azepine-7-carbonyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide. (20 mg, 0.039 mmol, 27%). 1H NMR (400 MHz, MeOD) δ ppm 1.62-1.84 (m, 5H) 1.84-1.99 (m, 2H) 1.99-2.20 (m, 4H) 2.31 (dd, J=13.05, 5.02 Hz, 1H) 2.47-2.62 (m, 2H) 2.63-2.80 (m, 1H) 3.18-3.27 (m, 1H) 3.38-3.61 (m, 2H) 3.77 (d, J=13.05 Hz, 1H) 3.84-3.98 (m, 1H) 4.04 (t, J=7.53 Hz, 1H) 4.06-4.19 (m, 1H) 4.80 (quin, J=9.03, 8.87 Hz, 1H) 6.67 (s, 1H) 7.93 (dd, J=8.78, 2.26 Hz, 1H) 8.45 (d, J=2.01 Hz, 1H) 8.53 (d, J=8.53 Hz, 1H) 8.82 (s, 1H); HRMS calc for m/z=517.3039. Found m/z=517.3044 (M+H)+.

reactant | 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino) nicotinic acid | 0.146 mmol, 0.088 g, 5 eq | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C20H22N6O3
reactant | HBTU | 0.226 mmol, 0.086 mg, 1.6 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.717 mmol, 0.100 mL, 4.9 eq | C(C)N(CC)CC | C6H15N
reactant | (3aR,8aS)-Octahydro-pyrrolo[2,3-c]azepine-1-carboxylic acid benzyl ester | 0.146 mmol, 0.040 mg, 1.0 eq | C(C1=CC=CC=C1)OC(=O)N1CC[C@@H]2[C@H]1CNCCC2 | C16H22N2O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | Ethyl Acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 15 mg | [Pd] | Pd
solvent | methanol | 5 mL | CO | CH4O
product | 7-cyclopentyl-2-[5-((3aR,8aS)-octahydro-pyrrolo[2,3-c]azepine-7-carbonyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C(=O)N2C[C@@H]3[C@H](CCC2)CCN3)N1C1CCCC1)C | C28H36N8O2
